* C:\Users\Ernesto\Desktop\Ingeniería Electrónica\9- Noveno Semestre\Electrónica Industrial\1- Trabajos Prácticos\2- Trabajos Prácticos del Teórico (TPT)\TPT4   - MOSFET de Potencia\TPT4 - Mosfets de Potencia.asc
V_GS N003 0 PULSE(10 0 3m 0 0 1 20m)
M1 N002 N004 0 0 IRF150
R_G N004 N003 50
R_D N001 N002 10
V_DD N001 0 80
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Ernesto\AppData\Local\LTspice\lib\cmp\standard.mos
.model IRF150 NMOS(Level=3 Gamma=0 Delta=0 Eta=0 Theta=0 Kappa=0.2 Vmax=0 Xj=0
+ Tox=100n Uo=600 Phi=.6 Rs=1.624m Kp=20.53u W=.3 L=2u Vto=2.831
+         Rd=1.031m Rds=444.4K Cbd=3.229n Pb=.8 Mj=.5 Fc=.5 Cgso=9.027n
+ Cgdo=1.679n Rg=13.89 Is=194E-18 N=1 Tt=288n)
* IR pid=IRF150 case=TO3
* Simulación
.tran 0 20m 0 1u
.backanno
.end
